US08293735B2
A solution of 2-methyl-3-bromo-aniline (6.05 g, 37 mmol) in pyridine (8 mL) and DCM (150 mL) was cooled to 0° C. and treated drop-wise with trifluoroacetic anhydride (11.5 mL, 81.4 mmol). The reaction mixture was stirred at RT for 2 h, then quenched with an aqueous solution of ammonium chloride. The organic layer was dried over MgSO4, and evaporated to dryness to give N-(3-bromo-2-methyl-phenyl)-2,2,2-trifluoro-acetamide as an off-white solid, which was used without further purification (10 g).

reactant | 2-methyl-3-bromo-aniline | 37 mmol, 6.05 g | CC1=C(N)C=CC=C1Br | C7H8BrN
reactant | trifluoroacetic anhydride | 81.4 mmol, 11.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-2-methyl-phenyl)-2,2,2-trifluoro-acetamide | BrC=1C(=C(C=CC1)NC(C(F)(F)F)=O)C | C9H7BrF3NO
